US08648089B2
4-(3-bromo-1H-indol-6-yl)phenol
A mixture solution of bromine (25 μL, 0.48 mmol) in DMF (1 mL) was added to a mixture solution of 4-(1H-indol-6-yl)phenol (100 mg, 0.48 mmol) in DMF (1 mL) at room temperature. After stirring for 1.5 hours at room temperature, followed by addition of icy water and addition of sodium thiosulfate, the mixture was stirred for 1 hour. Thus produced solid was filtered, washed with water and dried at room temperature. The target compound (136 mg) was obtained as white solid.

reactant | bromine | 0.48 mmol, 25 μL | BrBr | Br2
reactant | 4-(1H-indol-6-yl)phenol | 0.48 mmol, 100 mg | N1C=CC2=CC=C(C=C12)C1=CC=C(C=C1)O | C14H11NO
reactant | water | O | H2O
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(3-bromo-1H-indol-6-yl)phenol | 136 mg | BrC1=CNC2=CC(=CC=C12)C1=CC=C(C=C1)O | C14H10BrNO
